US06458780B1
Acetic acid (0.28 ml) and 1.6 ml of a 1 M tetrabutylammonium fluoride/THF solution were added to 313 mg of 4-nitrobenzyl(1S,5R,6S)-2-[7-(t-butyldimethylsilyloxy)methyl-5-methylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate. The mixture was stirred at room temperature for 3.5 hr. The reaction solution was adjusted to pH 7 by the addition of a saturated aqueous sodium hydrogencarbonate solution. The reaction solution was then extracted with ethyl acetate, washed with saturated brine, and dried over magnesium sulfate. The reaction solution was then concentrated under the reduced pressure. The residue was purified by column chromatography to give 279 mg of 4-nitrobenzyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethyl-5-methylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | tetrabutylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | 4-nitrobenzyl(1S,5R,6S)-2-[7-(t-butyldimethylsilyloxy)methyl-5-methylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 313 mg | [Si](C)(C)(C(C)(C)C)OCC=1N=C(N2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C | C30H38N4O7SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | Acetic acid | 0.28 ml | C(C)(=O)O | C2H4O2
product | 4-nitrobenzyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethyl-5-methylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 279 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3C)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O7S
